US05177217
Due to its low cost, L aspartic acid appears to be the most attractive starting material for the preparation of (S)-3-amino-1-substituted-pyrrolidines. The literature method from L-aspartate (D. T. Witiak, loc. cit.) involves treatment of N-boc-L-aspartate with acetic anhydride to give (S)-3-(tert butoxycarbonylamino)succinic anhydride followed by addition of a primary amine and ring closure with heat to give the succinimide, (S)-3-(tert-butoxycarbonylamino)-1-substituted pyrrolidine-2,5-dione. The latter is then reduced and deblocked to give the 1-substituted-3-aminopyrrolidine in low overall yield. From our experience with this method some racemization takes place when the blocking group is p-toluenesulfonyl(tosyl) and the primary amine is benzylamine.

reactant | aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | L-aspartate | N[C@@H](CC(=O)[O-])C(=O)[O-]
reactant | N-boc-L-aspartate | C(=O)(OC(C)(C)C)N[C@@H](CC(=O)[O-])C(=O)[O-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | (S)-3-(tert butoxycarbonylamino)succinic anhydride | C(C)(C)(C)OC(=O)N[C@H]1CC(=O)OC1=O | C9H13NO5
